US06235731B1
2) Synthesis of N-[3-(4-piperidyl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 10.12 g (22.87 mM) of N-[3-(1-tert-butoxycarbonyl-4-piperidyl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in 100 ml of ethanol was added 9.4 ml (114.33 mM) of 12N-hydrochloric acid and the mixture was stirred at room temperature for 1 hour. The resulting precipitate was recovered by filtration and rinsed with small amounts of ethanol and ether to provide 8.79 g (92.5%) of the title compound as orange-colored crystals.

reactant | N-[3-(1-tert-butoxycarbonyl-4-piperidyl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 22.87 mM, 10.12 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C23H30N4O3S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-[3-(4-piperidyl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | 8.79 g, 92.5% | Cl.Cl.N1CCC(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C18H22N4OS.2ClH/c23-18(20-8-2-3-13-6-9-19-10-7-13)15-11-14-12-21-16-4-1-5-17(24-15)22(14)16;;/h1,4-5,11-13,19H,2-3,6-10H2,(H,20,23);2*1H
